Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Shellfish / Penicillins
 
Attending: ___.
 
Chief Complaint:
Left ankle pain 
 
Major Surgical or Invasive Procedure:
Left ankle ORIF (___)

 
History of Present Illness:
Thank you for this consultation.  I had a pleasure of evaluating
___ in my office today.  My findings are summarized
below.

Allow me to first introduce myself.  I have recently joined the
orthopaedic surgery practice at ___ in the Division of Foot and Ankle Surgery.  I am an
orthopaedic surgeon and I completed my medical school and
residency training at ___ of Medicine.  I 
then
moved to ___ to pursue a fellowship in comprehensive foot and
ankle care at ___ including hindfoot 
and
ankle arthritis, trauma, deformity as well as forefoot disorders
such as bunions and hammertoes.

Please feel free to email me directly anytime with questions or
the need to get a patient added to my schedule.

You may also contact my office if you have any questions or
concerns at ___.

Sincerely,
___, MD, ___
Instructor, Foot and Ankle Surgery
___ Department of Orthopaedics
__________________________________________

Chief Complaint:  Left ankle fracture.

History of Present Illness:  Ms. ___ is a pleasant 
___
female who presents today for initial evaluation of her left
ankle fracture.  On ___, she was moving boxes walking down
the stairs where she missed the last step and sustained an
inversion injury.  She could not weightbear at the time of
injury.  She was seen in the ER at ___ where 
x-rays
were positive for a left ankle distal fibular fracture.  She was
given a tall Aircast boot and crutches and is here for followup. 

She states her pain is a ___.  It is intermittent.  Pain is
made worse with attempted ambulation with crutches and when the
ankle and foot are hanging.  It is improved with elevation.  She
has noted diffuse swelling and some bruising along the foot.  
She
denies numbness in the digits.  She has been taking oxycodone
provided by the ER as well as ibuprofen for pain.

Past Medical History:  Asthma, allergies, gastrointestinal
disease/stomach ulcers (diverticulitis), depression/anxiety
(occasional), arthritis, fractures or dislocations.

Medications:  The patient does not report any medications that
she takes.  However, she does relate that she takes fish oil,
vitamin B12, vitamin D3, ibuprofen and oxycodone provided by the
ER.

Allergies:  The patient reports certain antibiotics upset her GI
system (penicillins), shellfish and hayfever.

Surgical History:  Removal of one-third of the large intestine,
12 inches of the small intestine, colostomy ___, 
and
reversal of colostomy and resection ___.

Family history is significant for diabetes, lung disease, skin
disease, gastrointestinal problems, joint disease and arthritis.

Social History:  The patient currently works as a ___.  She is single.  She has two children.  She is a
former smoker with a half-pack-per-day history for ___ years.  
She
drinks alcohol six drinks weekly.

Review of Systems:  Significant for being in good health. 
Trouble with red eyes.

Review of systems, past medical and surgical history as well as
family and social history as documented on the new patient 
intake
form and reviewed with the patient.  This form was reviewed by
myself in clinic on ___, and scanned into medical
record.  Pertinent negatives and positives are included in the
HPI above.

The past history is negative for diabetes and inflammatory
arthropathy and is documented with the remainder of the review 
of
systems, past medical, social and family histories in the new
patient intake form which was reviewed with the patient and
signed in clinic on the day of the visit.

Physical Examination:  General:  Appearance is healthy and
non-septic, appropriate for stated age.  Chest:  Normal
respiratory effort.  Psych: Alert and oriented.  Appropriate 
mood
and affect.  MSK:  Standing, hindfoot alignment is not assessed. 

Gait not assessed secondary to fracture.  Neuro:  Sitting, ___
motor, intact sensation.  Vascular:  A 2+ pulses.  No global
swelling, edema, or clinically relevant varicosities.  Lymph:  
No
lymphadenopathy.  Skin:  Skin inspection/palpation reveals no
breakdown, pending breakdown or sympathetic change.  Exceptions
and foot specific exam noted below. 

There is tenderness to palpation in the left lateral ankle. 
There is diffuse left ankle edema extending through the dorsum 
of
the foot.  There is resolving ecchymosis along the medial and
lateral aspect of the foot.  The patient is not able to range 
her
ankle secondary to pain.  Motor strength cannot be assessed
secondary to pain.  Sensation intact to light touch in all
dermatomes.  A 2+ DP and ___ pulses.  Calf is soft and nontender
to palpation.

Imaging:  X-rays of the left ankle as well as stress views were
obtained today in clinic and reviewed with the patient.  X-rays
demonstrate a distal fibular fracture with stress views.  There
is noticeable widening of the ankle mortise.

Assessment:  Left ankle fracture with widening of ankle mortise.

Plan:  The patient was seen and evaluated by myself and Dr.
___ at today's visit.  She does have an unstable ankle
fracture that requires operative intervention.  We discussed 
with
the patient that we would perform open reduction internal
fixation of left ankle fracture.  

Risks and benefits of the proposed surgery were discussed in
detail with the patient. We discussed both non-operative as well
as operative treatments.  Risk of the surgery include, but are
not limited to, infection, bleeding and injury to arteries and
veins, wound complications, injury to nerves and tendons,
neuroma, deep vein thrombosis and pulmonary embolism, reflex
sympathetic dystrophy or complex regional pain syndrome, failure
to return to previous athletic level, need for additional
procedures and even the remote risk of catastrophic 
complications
such as loss of limb, heart attack, stroke and/or loss of life.
Specific to bony surgeries such as fusions and fractures there 
is
additional risk of ___ or ___, recurrence of
deformity and prominent hardware which may require removal in 
the
future. For soft tissue procedures there is also a risk of
re-injury or re-rupture of repaired ligaments and tendons.  

In the interim, we have placed the patient in an AO splint.  She
was provided with a script for home services to help her with
ADLs, as she lives alone.  Additionally, I have provided her 
with
a small pain medication refill, given the severity of her pain. 
We have reached out to our administrative staff to help
facilitate the booking of her surgery.  We will likely contact
the patient in one to two days with an operative date and time.

Exam: Tenderness to palpation in the left lateral ankle. Edema. 
Reduced range of motion.
Impression: Left ankle fracture with widening of the ankle
mortise.
Plan: ORIF left ankle fracture

___ PA

eScription ___

Addendum by ___, MD on ___ at 9:41 am:
This is a shared visit with my Physician ___. I have
reviewed ___ history and exam with ___, PA and with Ms. ___. I have performed a history
and physical examination, reviewed the patient forms and have
reviewed the above note. I am in agreement with the findings and
treatment program as outlined in this note and discussed them
personally with  Ms. ___ and answered all of her questions. 


Exam: Tenderness to palpation in the left lateral ankle. Edema. 
Reduced range of motion.
Impression: Left ankle fracture with widening of the ankle
mortise.
Plan: ORIF left ankle fracture

Thank you for allowing me to participate in this patient's care.
If you have any questions or concerns about this or any other
patient please contact my office or email me directly.

Sincerely,

 
Past Medical History:
None 
 
Social History:
___
Family History:
n/c
 
Physical Exam:
splint LLE clean dry intact
SILT in left toes
toes wwp 
 
Pertinent Results:
None 
 
Brief Hospital Course:
Patient admitted s/p left ankle fracture ORIF. She tolerated the 
procedure well and was transferred to PACU then floor without 
issues. Please see operative report for full details.  Patient 
received ___ antibiotics and transitioned from iv to
oral pain medications. On the floor, his diet was advanced. She 
was started on ASA 325 mg daily for DVT ppx. At time of 
discharge,her pain was controlled, patient tolerated a diet, and 
patient stated readiness for discharge.
 
Medications on Admission:
None 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Aspirin 325 mg PO DAILY  
3.  Docusate Sodium 100 mg PO BID  
4.  Ondansetron 4 mg PO Q8H:PRN nausea  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Left ankle fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Thank you for allowing me to assist in your care. It is a 
privilege to be able to take care of you. Should you have any 
questions about your post-operative care feel free to call my 
office at ___ during business hours and either myself 
or ___, PA-C will address any questions or 
concerns you may have. If this is an urgent matter at night or 
on weekends please call ___ and ask the page operator 
to page the covering ___ call orthopaedic physician. 

Prescription refills or changes cannot be addressed after normal 
business hours or on weekends.

PAIN CONTROL:

-You may or may not have had a nerve block depending on the 
type of surgery. This will likely wear off later in the evening 
and it is normal to have increased pain when the nerve block 
wears off. Please take your prescribed pain medications as 
directed with food prior to the nerve block wearing off. 
-Stay ahead of the pain!
-Narcotic pain medications can cause constipation. Please take 
a stool softener while taking these and drink plenty of water.
-Please plan ahead! If you are running out of your medication 
prior to your follow-up appointment please call during business 
hours with a ___ day notice. Prescription refills or changes 
cannot be addressed after normal business hours or on weekends.

NON-NARCOTIC PAIN CONTROL

-Multi-modal pain control is critical. If you are able to take 
Tylenol (acetaminophen) I would strongly encourage you to do so 
according to the instructions on the bottle. Do not take more 
than 4,000 mg of Tylenol in 24 hours.
-NSAIDs (Advil, Motrin, Aleve, etc) are also excellent for pain 
control post-operatively. Do not take if you have had a bone 
fusion surgery, but for soft tissue procedures or most fracture 
surgeries these medications are acceptable unless you are unable 
to take for other medical reasons or unless we have specifically 
instructed you against it.
-Elevation with the operative site above the level of the heart 
will decrease swelling and improve pain control
-Ice or cold therapy may also be helpful. Do not keep ice or 
cold directly on the skin and do not use for more than ___ 
minutes to decrease risk of skin injury from the cold. Do NOT 
use ice when the block is still in effect as you will not know 
if you are injuring yourself. You may place the ice pack behind 
your knee if you have a bulky dressing on your foot. 
-Every little bit helps. The faster you can come off the 
narcotic medication the better. Most of my patients do not need 
narcotics after the first post-operative visit!

ACTIVITY:

-You will likely have swelling after surgery. Please keep the 
foot elevated on ___ pillows at all times possible. You can 
apply a dry, covered, ice-bag on top of your dressing or behind 
your knee for 20 minutes at a time as often as you like.
-Unless instructed otherwise you should not put any weight down 
on your operated extremity until you come back for your first 
postoperative visit.

CARE FOR YOUR DRESSING:

-You should not remove your dressing. I will do so when I see 
you for your first post-operative visit.
-It is not unusual to have a little bloody staining through 
your dressing. However please call the office for any concerns.

acetaminophen) I would strongly encourage you to do so according 
to the instructions on the bottle. Do not take more than 4,000 
mg of Tylenol in 24 hours.
-NSAIDs (Advil, Motrin, Aleve, etc) are also excellent for pain 
control post-operatively. Do not take if you have had a bone 
fusion surgery, but for soft tissue procedures or most fracture 
surgeries these medications are acceptable unless you are unable 
to take for other medical reasons or unless we have specifically 
instructed you against it.
-Elevation with the operative site above the level of the heart 
will decrease swelling and improve pain control
-Ice or cold therapy may also be helpful. Do not keep ice or 
cold directly on the skin and do not use for more than ___ 
minutes to decrease risk of skin injury from the cold. Do NOT 
use ice when the block is still in effect as you will not know 
if you are injuring yourself. You may place the ice pack behind 
your knee if you have a bulky dressing on your foot. 
-Every little bit helps. The faster you can come off the 
narcotic medication the better. Most of my patients do not need 
narcotics after the first post-operative visit!

ACTIVITY:

-You will likely have swelling after surgery. Please keep the 
foot elevated on ___ pillows at all times possible. You can 
apply a dry, covered, ice-bag on top of your dressing or behind 
your knee for 20 minutes at a time as often as you like.
-Unless instructed otherwise you should not put any weight down 
on your operated extremity until you come back for your first 
postoperative visit.

CARE FOR YOUR DRESSING:

-You should not remove your dressing. I will do so when I see 
you for your first post-operative visit.
-It is not unusual to have a little bloody staining through 
your dressing. However please call the office for any concerns.
-Keep your dressing clean and dry. You will have to cover it 
when you bath or shower. If it gets wet please call the office 
immediately.

PREVENTION OF BLOOD CLOTS:

-You have been instructed to take medication in order to help 
prevent blood clots after surgery. Please take an aspirin 325 mg 
every day unless you have been specifically prescribed a 
different medication by me. If there is some reason why you 
cannot take aspirin please notify my office.

DRIVING:

-My recommendation is that you should not drive if you:
(1)are still taking narcotic pain medications
(2)have any type of immobilization on your right side
(3)are unable to fully bear weight without pain on your right 
side
(the above also apply to the left side if you have a manual 
transmission (“stick shift”)

-There is no substitute for common sense and safety. If you do 
not feel safe driving, do not do so.  Practice in an empty 
parking lot prior to driving on the road.  
-“Driving is easy. Stopping in an emergency is hard”

WHEN TO CALL:

-Please call the office if you have any questions or concerns 
regarding your post-operative care. We need to know if things 
are not going well.
-Please make sure you call the office or page the ___ call 
orthopaedic physician immediately if you are having any of the 
following problems:
1.Fever greater than 101.4
2.Increasing pain not controlled on pain medications
3.Increasing bloody staining on the dressing
4.Chest pain, difficulty breathing, nausea or vomiting
5.Significant asymmetric leg swelling
6.Cold toes, toes that are not normal color (pink) 
7.Any other concerning symptoms

Physical Therapy:
___
NWB RLE in splint
Treatments Frequency:
NWB RLE in splint
___ 
do not remove dressing 
 
Followup Instructions:
___